US08754085B2
Step 1: Ethyl 7-(2-m-tolyl-3-p-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate
2-m-Tolyl-3-p-tolyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine (Intermediate FB)(61 mg, 0.193 mmol) in dry DCE (1 ml) at RT was treated with DIPEA (0.037 ml, 0.213 mmol) followed by ethyl 7-oxoheptanoate (66.6 mg, 0.387 mmol). The reaction mixture was stirred at RT for 10 minutes and sodium triacetoxyborohydride (205 mg, 0.967 mmol) was added. The resulting mixture was stirred at 60° C. overnight. After cooling to RT, the mixture was slowly added to water (50 ml) and extracted with DCM (3×). The combined organic extracts were passed through a phase separating column and concentrated in vacuo. The resulting crude product was purified by chromatography on silica eluting with 0-5% EtOAc/iso-hexane to afford the title compound; LCMS Rt 1.61 mins MS m/z 473.4 [ M+H]+; Method 2minLC_v003

reactant | 2-m-Tolyl-3-p-tolyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine | 0.193 mmol, 61 mg | C1(=CC(=CC=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)C)NCCC2)C | C21H21N3
reactant | DIPEA | 0.213 mmol, 0.037 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 7-oxoheptanoate | 0.387 mmol, 66.6 mg | O=CCCCCCC(=O)OCC | C9H16O3
reactant | sodium triacetoxyborohydride | 0.967 mmol, 205 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 1 ml | ClCCCl | C2H4Cl2
solvent | water | 50 ml | O | H2O
product | Ethyl 7-(2-m-tolyl-3-p-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate | C1(=CC(=CC=C1)C=1N=C2C(=NC1C1=CC=C(C=C1)C)N(CCC2)CCCCCCC(=O)OCC)C | C30H37N3O2
